Memristor Random network 
.include ../models/pershin.sub
V1 vin gnd sin (0 10.0 1
Xmem0 vin n10 l0 memristor alpha=0 beta=500000.0 Roff=200000.0 Ron=2000.0 Rinit=200000.0 Vt=0.6
Xmem1 vin n01 l1 memristor alpha=0 beta=500000.0 Roff=200000.0 Ron=2000.0 Rinit=200000.0 Vt=0.6
Xmem2 n01 n11 l2 memristor alpha=0 beta=500000.0 Roff=200000.0 Ron=2000.0 Rinit=200000.0 Vt=0.6
Xmem3 n01 n02 l3 memristor alpha=0 beta=500000.0 Roff=200000.0 Ron=2000.0 Rinit=200000.0 Vt=0.6
Xmem4 n02 n12 l4 memristor alpha=0 beta=500000.0 Roff=200000.0 Ron=2000.0 Rinit=200000.0 Vt=0.6
Xmem5 n02 n03 l5 memristor alpha=0 beta=500000.0 Roff=200000.0 Ron=2000.0 Rinit=200000.0 Vt=0.6
Xmem6 n03 n13 l6 memristor alpha=0 beta=500000.0 Roff=200000.0 Ron=2000.0 Rinit=200000.0 Vt=0.6
Xmem7 n10 n20 l7 memristor alpha=0 beta=500000.0 Roff=200000.0 Ron=2000.0 Rinit=200000.0 Vt=0.6
Xmem8 n10 n11 l8 memristor alpha=0 beta=500000.0 Roff=200000.0 Ron=2000.0 Rinit=200000.0 Vt=0.6
Xmem9 n11 n21 l9 memristor alpha=0 beta=500000.0 Roff=200000.0 Ron=2000.0 Rinit=200000.0 Vt=0.6
Xmem10 n11 n12 l10 memristor alpha=0 beta=500000.0 Roff=200000.0 Ron=2000.0 Rinit=200000.0 Vt=0.6
Xmem11 n12 n22 l11 memristor alpha=0 beta=500000.0 Roff=200000.0 Ron=2000.0 Rinit=200000.0 Vt=0.6
Xmem12 n12 n13 l12 memristor alpha=0 beta=500000.0 Roff=200000.0 Ron=2000.0 Rinit=200000.0 Vt=0.6
Xmem13 n13 n23 l13 memristor alpha=0 beta=500000.0 Roff=200000.0 Ron=2000.0 Rinit=200000.0 Vt=0.6
Xmem14 n20 gnd l14 memristor alpha=0 beta=500000.0 Roff=200000.0 Ron=2000.0 Rinit=200000.0 Vt=0.6
Xmem15 n20 n21 l15 memristor alpha=0 beta=500000.0 Roff=200000.0 Ron=2000.0 Rinit=200000.0 Vt=0.6
Xmem16 n21 n31 l16 memristor alpha=0 beta=500000.0 Roff=200000.0 Ron=2000.0 Rinit=200000.0 Vt=0.6
Xmem17 n21 n22 l17 memristor alpha=0 beta=500000.0 Roff=200000.0 Ron=2000.0 Rinit=200000.0 Vt=0.6
Xmem18 n22 n32 l18 memristor alpha=0 beta=500000.0 Roff=200000.0 Ron=2000.0 Rinit=200000.0 Vt=0.6
Xmem19 n22 n23 l19 memristor alpha=0 beta=500000.0 Roff=200000.0 Ron=2000.0 Rinit=200000.0 Vt=0.6
Xmem20 n23 n33 l20 memristor alpha=0 beta=500000.0 Roff=200000.0 Ron=2000.0 Rinit=200000.0 Vt=0.6
Xmem21 gnd n31 l21 memristor alpha=0 beta=500000.0 Roff=200000.0 Ron=2000.0 Rinit=200000.0 Vt=0.6
Xmem22 n31 n32 l22 memristor alpha=0 beta=500000.0 Roff=200000.0 Ron=2000.0 Rinit=200000.0 Vt=0.6
Xmem23 n32 n33 l23 memristor alpha=0 beta=500000.0 Roff=200000.0 Ron=2000.0 Rinit=200000.0 Vt=0.6
.tran 0.002 3 1e-09 uic
.control
run
set wr_vecnames
set wr_singlescale
wrdata /home/ignaciopineyro/MemNet/application/tmp_data/simulation_0_states.csv l0 l1 l2 l3 l4 l5 l6 l7 l8 l9 l10 l11 l12 l13 l14 l15 l16 l17 l18 l19 l20 l21 l22 l23  
wrdata /home/ignaciopineyro/MemNet/application/tmp_data/simulation_0_iv.csv i(v1) vin
quit
.endc
.end
